US20010046993A1
B. 1-[1-[2-(4-Benzyl-1-piperazinyl)ethyl]cyclopentyl]-2-pyrrolidinone
A mixture of ethyl 4-[[1-[2-(4-benzyl-1-piperazinyl)ethyl]cyclopentyl]amino]butanoate (333 mg/0.83 mmol) and 2 N—NaOH (1.3 ml/2.6 mmol) in dioxane (6 ml) was stirred for 8 hours at 80° C., and then the mixture was acidified with sat.NaH2PO4 (10 ml). The mixture was concentrated in vacuo. The residue was suspended in dichloromethane-methanol (5:1, 30 ml) and the mixture was refluxed for 1 hour. After filtration, the filtrate was concentrated in vacuo. The residue was dissolved in dichloromethane (20 ml). To the mixture was added WSC (431 mg/2.25 mmol) and the mixture was refluxed for 2 d. After cooling to room temperature, the mixture was washed with water (10 ml×2). The combined extracts were washed with brine (10 ml), dried over magnesium sulfate, filtered and concentrated in vacuo. The residue was purified by column chromatography (Si, 230-400 mesh/dichloromethane:methanol=30:1-15:1) to give a yellow oil (150 mg/ 51%).

reactant | ethyl 4-[[1-[2-(4-benzyl-1-piperazinyl)ethyl]cyclopentyl]amino]butanoate | 0.83 mmol, 333 mg | C(C1=CC=CC=C1)N1CCN(CC1)CCC1(CCCC1)NCCCC(=O)OCC | C24H39N3O2
reactant | NaOH | 2.6 mmol, 1.3 ml | [OH-].[Na+]
reactant | WSC | 2.25 mmol, 431 mg | CCN=C=NCCCN(C)C | C8H17N3
solvent | dioxane | 6 ml | O1CCOCC1 | C4H8O2
product | 1-[1-[2-(4-Benzyl-1-piperazinyl)ethyl]cyclopentyl]-2-pyrrolidinone | C(C1=CC=CC=C1)N1CCN(CC1)CCC1(CCCC1)N1C(CCC1)=O | C22H33N3O
